US05543406
A solution of 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one (2.00 g, 4.63 mmol), prepared in Example 3, part E, in dioxane (50 mL) is treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 1.37 g, 6.02 mmol) and p-nitrophenol (10 mg). The reaction is heated to reflux for 2 hrs, poured into ice water (150 mL), extracted with ethyl acetate (3×100 mL), extracts washed with saturated aqueous NaHSO3, 2N NaOH, saturated aqueous NaCl, dried over MgSO4, concentrated and chromatographed on silica gel (40% ethyl acetate/hexanes) to give crude 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-1,4-dien-3-one as a tan solid of sufficient purity to carry on to the following steps; yield: 1.53 g (76%).

reactant | 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one | 4.63 mmol, 2.00 g | C(=O)(OC)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C25H37NO5
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 6.02 mmol, 1.37 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | p-nitrophenol | 10 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-1,4-dien-3-one | C(=O)(OC)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(C=C[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C25H35NO5
